US08957069B2
8-[(5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-2-yl)methyl]-1,4-dioxa-8-azaspiro[4.5]decane
1,4-dioxa-8-azaspiro[4.5]decane (725 mg, 5.06 mmol) and potassium carbonate (699 mg, 5.06 mmol) were added to a solution of DMA (3 mL) containing 5-bromo-2-(iodomethyl)-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran (400 mg, 1.01 mmol) synthesized in Reference Example 133, and the mixture was stirred under microwave irradiation at 200° C. for 10 minutes. The reaction solution was cooled to room temperature, and water and ethyl acetate were added thereto to separate an organic layer. The organic layer was washed with water and saturated saline, and dried using anhydrous magnesium sulfate, followed by concentration under reduced pressure. The residue was purified by silica gel chromatography (hexane-ethyl acetate 95:5-80:20) to give 310 mg of the title compound (yield: 75%).

reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 5.06 mmol, 725 mg | O1CCOC12CCNCC2 | C7H13NO2
reactant | potassium carbonate | 5.06 mmol, 699 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
reactant | 5-bromo-2-(iodomethyl)-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran | 1.01 mmol, 400 mg | BrC=1C(=C(C2=C(CC(O2)(C)CI)C1C)C)C | C13H16BrIO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 8-[(5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-2-yl)methyl]-1,4-dioxa-8-azaspiro[4.5]decane | 310 mg, yield: 75% | BrC=1C(=C(C2=C(CC(O2)(C)CN2CCC3(OCCO3)CC2)C1C)C)C | C20H28BrNO3
